US06596726B1
4-Chloroindolo[2,3-d]pyrimidine hydrochloride (240 mg, 1 mmol) and 3-bromoaniline (0.33 mL, 3 mmol) in ethanol (3 mL) are heated under reflux for 2 h. The solids are collected by suction filtration, washed with ethanol and dried to give 4-(3-bromoanilino)indolo[2,3-d]pyrimidine hydrochloride (248 mg, 73%). 1H NMR (DMSO) δ1H, s) , 9.02 (1H, s),8.51 (1H, s), 8.42 (1H, d, J=7.7 Hz), 8.08 (1H, t, J=1.9 Hz), 7.82 (1H, d, J 8.0 Hz), 7.53 (1H, d, J=7.9 Hz), 7.46 (1H, dt, Jd=1.0 Hz, Jt=7.6 Hz), 7.36-7.27 (3H, m).

reactant | 4-Chloroindolo[2,3-d]pyrimidine hydrochloride | 1 mmol, 240 mg | Cl.ClC=1C2=C(N=CN1)NC1=CC=CC=C12
reactant | 3-bromoaniline | 3 mmol, 0.33 mL | BrC=1C=C(N)C=CC1 | C6H6BrN
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 4-(3-bromoanilino)indolo[2,3-d]pyrimidine hydrochloride | 248 mg, 73% | Cl.BrC=1C=C(NC=2C3=C(N=CN2)NC2=CC=CC=C23)C=CC1 | InChI=1S/C16H11BrN4.ClH/c17-10-4-3-5-11(8-10)20-15-14-12-6-1-2-7-13(12)21-16(14)19-9-18-15;/h1-9H,(H2,18,19,20,21);1H
